US07396844B1
Synthesis of ethyl 4-ethoxycarbonimidoylbenzoate hydrochloride
5.16 g (29 mmol) of ethyl 4-cyanobenzoate was stirred in 50 ml of 4N solution of hydrogen chloride in dioxane. 5 ml of ethanol was added to the resultant mixture, and they were stirred at room temperature for 4 days. The solvent was evaporated, and the residue was washed with ethyl acetate and dried to obtain the title compound.

reactant | ethyl 4-cyanobenzoate | 29 mmol, 5.16 g | C(#N)C1=CC=C(C(=O)OCC)C=C1 | C10H9NO2
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 5 ml | C(C)O | C2H6O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | ethyl 4-ethoxycarbonimidoylbenzoate hydrochloride | Cl.C(C)OC(=N)C1=CC=C(C(=O)OCC)C=C1 | InChI=1S/C12H15NO3.ClH/c1-3-15-11(13)9-5-7-10(8-6-9)12(14)16-4-2;/h5-8,13H,3-4H2,1-2H3;1H
